US05384238
DPBO was prepared according to the following protocol: 4-phenoxybenzoic acid (2.5 g, 11.7 mmol) was refluxed in thionyl chloride (50 ml) for 3 hours. The resulting mixture was allowed to cool and the solvent removed in vacuo to recover 4-phenoxybenzoyl chloride as a pale yellow oil (2.72 g, Yield=100%, λ max=1760 cm-1). The 4-phenoxybenzoyl chloride (2.72 g, 11.7 mmol) in dichloromethane (20 ml) was added to diphenylether (1.99 g, 11.7 mmol) in dichloromethane (30 ml) followed by aluminium trichloride (1.56 g, 11.7 mmol) and the resulting mixture refluxed for 3 hours. The refluxed mixture was poured onto ice-water (approximately 100 ml) and the resulting layers separated. The aqueous layer was extracted with ether (2×100 ml extractions) and the combined organics dried, filtered and evaporated to recover the 4,4'-bis(phenoxy)benzophenone (2.76 g, yield=64%) as a colourless solid [melting point=130 to 132° C., λ max (EtOH)=291 nm (ε=2.3×104) and δH 6.9 to 7.9 (18H, M, Ar H)].

reactant | 4-phenoxybenzoic acid | 11.7 mmol, 2.5 g | O(C1=CC=CC=C1)C1=CC=C(C(=O)O)C=C1 | C13H10O3
reactant | 4-phenoxybenzoyl chloride | 11.7 mmol, 2.72 g | O(C1=CC=CC=C1)C1=CC=C(C(=O)Cl)C=C1 | C13H9ClO2
reactant | diphenylether | 11.7 mmol, 1.99 g | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
reactant | aluminium trichloride | 11.7 mmol, 1.56 g | [Cl-].[Cl-].[Cl-].[Al+3]
solvent | thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | EtOH | CCO | C2H6O
product | 4,4'-bis(phenoxy)benzophenone | 2.76 g, yield=64% | O(C1=CC=CC=C1)C1=CC=C(C(=O)C2=CC=C(C=C2)OC2=CC=CC=C2)C=C1 | C25H18O3
